US06476029B1
2-Propoxybenzonitrile
75 g (630 mmol) of 2-hydroxybenzonitrile, 174 g (1.26 mol) of potassium carbonate and 232.3 g (1.89 mol) of n-propyl bromide in 1 1 of acetone are refluxed overnight. The solid is filtered off, the solvent is removed under reduced pressure and the residue is distilled under reduced pressure. B.p.: 89° C. (0.7 mbar)

reactant | 2-hydroxybenzonitrile | 630 mmol, 75 g | OC1=C(C#N)C=CC=C1 | C7H5NO
reactant | potassium carbonate | 1.26 mol, 174 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-propyl bromide | 1.89 mol, 232.3 g | CCCBr | C3H7Br
solvent | acetone | CC(=O)C | C3H6O
product | 2-Propoxybenzonitrile | C(CC)OC1=C(C#N)C=CC=C1 | C10H11NO
